US06949579B2
775 mg of 4-trifluoromethylphenylboronic acid, 1.24 g of caesium fluoride, 13.5 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 25, in 30 cm3 of dioxane. The mixture is then refluxed for 18 hours, the temperature is then allowed to return to room temperature and the reaction medium is diluted with 75 cm3 of ethyl acetate, filtered through a sinter funnel packed with Celite and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The work-up and the purification are performed by analogy with Example 41. 1 g of N-[6-[4-(trifluoromethyl)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide is thus obtained in the form of a yellow oil in a purity of 95%.

reactant | 4-trifluoromethylphenylboronic acid | 775 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-[4-(trifluoromethyl)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | FC(C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)(F)F | C24H30F3N3O2Si
